US09278973B2
A solution of 2-(4-chlorobenzoyl)hydrazinecarboximidamide (2.1 g) in diphenylether (15 ml) was stirred for 10 min at 170° C. The reaction was then quenched by the addition of hexane (30 ml) and the product was collected by filtration, washed with hexane (3×10 ml) and dried in an oven under reduced pressure to give 3-(4-chlorophenyl)-1H-1,2,4-triazol-5-amine as a light yellow solid (1 g, 52%).

reactant | 2-(4-chlorobenzoyl)hydrazinecarboximidamide | 2.1 g | ClC1=CC=C(C(=O)NNC(N)=N)C=C1 | C8H9ClN4O
solvent | diphenylether | 15 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-(4-chlorophenyl)-1H-1,2,4-triazol-5-amine | 1 g, 52% | ClC1=CC=C(C=C1)C1=NNC(=N1)N | C8H7ClN4
